US07625886B2
7c) (R)-3-(4-amino-3-methyl-5-nitro-phenyl)-2-hydroxy-propionic acid
Under a nitrogen atmosphere a solution of 12.0 g (37.4 mmol) (1R)-B-chloro-diisopinocampheyl borane in 40 mL THF was added dropwise to a solution, cooled to −35° C., of 6.5 g (26.0 mmol) 3-(4-amino-3-methyl-5-nitro-phenyl)-2-oxo-propionic acid and 4.5 mL (32.4 mmol) triethylamine in 100 mL THF within 15 min and the reaction solution was stirred overnight at RT. Then the reaction solution was carefully combined at 5° C. with 60 mL of 1 M NaOH and 150 mL diethyl ether and stirred for 15 min. The organic phase was separated off, extracted three times with 40 mL of 1 M NaOH and once with 40 mL water. The combined aqueous phases were acidified with semiconc. HCl while cooling with an ice bath and extracted twice with in each case 120 mL EtOAc. The combined organic phases were dried on Na2SO4 and evaporated down i. vac. The crude product was obtained, which was reacted further without purification.

reactant | 3-(4-amino-3-methyl-5-nitro-phenyl)-2-oxo-propionic acid | 26.0 mmol, 6.5 g | NC1=C(C=C(C=C1[N+](=O)[O-])CC(C(=O)O)=O)C | C10H10N2O5
reactant | triethylamine | 32.4 mmol, 4.5 mL | C(C)N(CC)CC | C6H15N
reactant | NaOH | 1 M, 60 mL | [OH-].[Na+]
reactant | diethyl ether | 150 mL | C(C)OCC | C4H10O
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | (R)-3-(4-amino-3-methyl-5-nitro-phenyl)-2-hydroxy-propionic acid | NC1=C(C=C(C=C1[N+](=O)[O-])C[C@H](C(=O)O)O)C | C10H12N2O5
